US08703761B2
B. {1-[5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester
A mixture of 2-benzyloxycarbonylamino-2-methyl-propionic acid (10.5 g, 44.2 mmol), HBTU (16.8 g, 44.3 mmol) and Et3N (6.2 mL, 45 mmol) in DMF (50 mL) was stirred at room temperature for 2 h. To this was added a solution of 5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-ylamine (9.62 g, ca. 32 mmol with some impurities present) in DMF (50 mL). The mixture was heated at 85° C. for 18 h and partitioned between EtOAc and, sequentially, 3M HCl and aqueous KOH. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 524.2 (MH+).

reactant | 2-benzyloxycarbonylamino-2-methyl-propionic acid | 44.2 mmol, 10.5 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | HBTU | 44.3 mmol, 16.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 45 mmol, 6.2 mL | CCN(CC)CC | C6H15N
reactant | 5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-ylamine | FC1=CC=C(OC2=C(N=C(S2)N)C2=CC=C(C=C2)F)C=C1 | C15H10F2N2OS
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | {1-[5-(4-Fluoro-phenoxy)-4-(4-fluoro-phenyl)-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C)(C)C(NC=1SC(=C(N1)C1=CC=C(C=C1)F)OC1=CC=C(C=C1)F)=O)=O | C27H23F2N3O4S
